US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-fluoro-benzamide hydrochloric acid salt (Compound G10)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and 3-fluorobenzoyl chloride. Mp. >270° C. (decomp.).

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-fluoro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC(=CC=C2)F)=O | InChI=1S/C20H22FN3O.ClH/c21-16-3-1-2-15(14-16)20(25)22-17-4-6-18(7-5-17)24-13-12-23-10-8-19(24)9-11-23;/h1-7,14,19H,8-13H2,(H,22,25);1H
